US07491720B2
(2) Synthesis of tert-butyl 4-(2-fluoro-3-formylbenzoyl)piperazine-1-carboxylate
194 mg of tert-butyl 4-(3-bromo-2-fluorobenzoyl)piperazine-1-carboxylate was dissolved in 5.0 ml of tetrahydrofuran, and 1.25 ml of a solution of isobutylmagnesium chloride in tetrahydrofuran (2.0 M) was added thereto at −78° C. After stirring at the same temperature for 2 hours, 0.39 ml (5.0 mmol) of N,N-dimethylformamide was added thereto. The resulting mixture was stirred at the same temperature for 30 minutes and further stirred at 0° C. for 30 minutes. To the reaction mixture was added saturated ammonium chloride, and the mixture was extracted with chloroform. The organic layer was washed with brine and then concentrated. The residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=9/1 to 1/1) to give the title compound.

reactant | tert-butyl 4-(3-bromo-2-fluorobenzoyl)piperazine-1-carboxylate | 194 mg | BrC=1C(=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C16H20BrFN2O3
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | N,N-dimethylformamide | 5.0 mmol, 0.39 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
product | tert-butyl 4-(2-fluoro-3-formylbenzoyl)piperazine-1-carboxylate | FC1=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1C=O | C17H21FN2O4
